US06747048B2
3,5-Dichloro-2-fluoro-4-(3-isopropyl-4-hydroxyphenoxy)-6-hydroxycarbonylmethoxypyridine
To a solution of 3,5-dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethoxy-pyridine (120 mg) in CH2Cl2 (3.0 mL) was added a solution of BBr3 in CH2Cl2 (1 mL, 1.0 M) at ambient temperature. The resulting mixture was stirred for 2 h, poured to stirring water (50 mL), extracted with CH2Cl2 (20 mL×3) from water, dried (Na2SO4) and concentrated to dryness under reduced pressure. The residue was dissolved in THF:MeOH:H2O=3:1:1 (5 mL), treated with a solution of LiOH in water (1 mL, 1.0 M) and stirred at ambient temperature for 30 min. The reaction mixture was diluted with a 1.0 M solution of HCl (50 mL), extracted with ethyl acetate(50 mL×3), dried (Na2SO4) and concentrated under reduced pressure. Purification by HPLC afforded the title compound as a colorless oil (80 mg).

reactant | 3,5-dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethoxy-pyridine | 120 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)OCC(=O)OC)F | C18H18Cl2FNO5
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 M, 1 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Dichloro-2-fluoro-4-(3-isopropyl-4-hydroxyphenoxy)-6-hydroxycarbonylmethoxypyridine | 80 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)O)C(C)C)Cl)OCC(=O)O)F | C16H14Cl2FNO5
